US09023858B2
7-methoxy-2-(propylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidin-4(3H)-one
A mixture of 7-methoxy-2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2,3-dihydropyrido[2,3-d]pyrimidin-4(1H)-one (153 mg), 1M aqueous sodium hydrogen carbonate solution (439 μl), 1-iodopropane (117 μl) and N,N-dimethylformamide (3 ml) was stirred at 80° C. for 10 min. The reaction mixture was allowed to be cooled, and water (20 ml) was added thereto. The white precipitate was collected by filtration, washed with water, and dissolved in tetrahydrofuran (10 ml). The solution was diluted with ethyl acetate (20 ml), washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was recrystallized from a mixed solvent of ethyl acetate/heptane to give the title compound (114 mg) as cotton-like needle crystals.

reactant | 7-methoxy-2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2,3-dihydropyrido[2,3-d]pyrimidin-4(1H)-one | 153 mg | COC=1C=CC2=C(NC(N(C2=O)C2=CC=C(C=C2)OCC(F)(F)F)=S)N1 | C16H12F3N3O3S
reactant | sodium hydrogen carbonate | 1M, 439 μl | C(O)([O-])=O.[Na+]
reactant | 1-iodopropane | 117 μl | ICCC | C3H7I
reactant | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
product | 7-methoxy-2-(propylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidin-4(3H)-one | 114 mg | COC=1C=CC2=C(N=C(N(C2=O)C2=CC=C(C=C2)OCC(F)(F)F)SCCC)N1 | C19H18F3N3O3S
